US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-tert-butyldimethylsilyloxypyridine-2-yl)phenyl)guanidine (300 mg) in dichloromethane (3 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 6 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-hydroxypyridin-2-yl)phenylguanidine dihydrochloride (145 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-tert-butyldimethylsilyloxypyridine-2-yl)phenyl)guanidine | 300 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C28H42N4O5Si
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 6 ml | O1CCOCC1 | C4H8O2
product | 3-(3-hydroxypyridin-2-yl)phenylguanidine dihydrochloride | 145 mg | Cl.Cl.OC=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C12H12N4O.2ClH/c13-12(14)16-9-4-1-3-8(7-9)11-10(17)5-2-6-15-11;;/h1-7,17H,(H4,13,14,16);2*1H
